US04094906
Following the same procedure described in Example 1, Part A, but using 100 ml. carbon tetrachloride as the solvent for 5.8 g. (0.1 mole) propionaldehyde, adding a solution of 10.8 g. (0.1 mole) phenylhydrazine in 25 ml. carbon tetrachloride, and removing the water formed by the reaction as its carbon tetrachloride azeotrope (volume of about 50 ml.), there was obtained a carbon tetrachloride solution of propionaldehyde phenylhydrazone.

reactant | propionaldehyde | 0.1 mole | C(CC)=O | C3H6O
reactant | phenylhydrazine | 0.1 mole | C1(=CC=CC=C1)NN | C6H8N2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | propionaldehyde phenylhydrazone | C1(=CC=CC=C1)NN=CCC | C9H12N2
